US04076820
a. 2-Methanesulphonamido-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizine (isomer `A`)
To 2-amino-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizine hydrochloride (1.38 g), suspended in a solution of triethylamine (2 ml) in dichloromethane (10 ml) stirred at room temperature was added methane sulphonyl chloride (0.570 g) in dichloromethane (5 ml). After stirring for 18 hours, the solution was washed with water and the organic phase separated, dried and evaporated to yield the title compound (1.06 g) as an oil, which was converted in ethanolic hydrogen chloride to the hydrochloride (0.395 g) m.p. 244.8° C. C14H20N2O2S.HCl requires C, 53.06; H, 6.68; N, 8.84%. Found: C, 53.07; H, 6.77; N, 8.64%.

reactant | 2-amino-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizine hydrochloride | 1.38 g | Cl.NC1CCN2CCC3=C(C2C1)C=CC=C3
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | methane sulphonyl chloride | 0.570 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-Methanesulphonamido-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizine | 1.06 g | CS(=O)(=O)NC1CCN2CCC3=C(C2C1)C=CC=C3 | C14H20N2O2S
